US07307088B2
Step A: Preparation of N-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-2-amino-benzamide
A mixture of 1-(6-amino-3,3-dimethyl-2,3-dihydro-indol-1-yl)-ethanone (1.02 g, 5 mmol) and isatoic anhydride (0.85 g, 5.2 mmol) in DMSO (5 mL) was heated to 150° C. for 6 h. After cooling to RT, the mixture was suspended in a NaHCO3 solution (40 mL) and extracted with CH2Cl2 (20 mL×3). The organic solution was combined and concentrated in vacuo. The residue was purified via flash chromatography on silica gel (EtOAc:hexanes 9:2) to give the desired compound as an off-white solid.

reactant | 1-(6-amino-3,3-dimethyl-2,3-dihydro-indol-1-yl)-ethanone | 5 mmol, 1.02 g | NC1=CC=C2C(CN(C2=C1)C(C)=O)(C)C | C12H16N2O
reactant | isatoic anhydride | 5.2 mmol, 0.85 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | N-(1-acetyl-3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-2-amino-benzamide | C(C)(=O)N1CC(C2=CC=C(C=C12)NC(C1=C(C=CC=C1)N)=O)(C)C | C19H21N3O2
